US06110929
Under a nitrogen atmosphere, a mixture of 2-{[3-(trifluoromethyl)anilino]methylene}malonate (80 g, 0.24 mol) and Dowtherm A was heated to 240° C. and then stirred for 3 hours. The reaction mixture was allowed to cool to ambient temperature and then stirred for 16 hours. The solids were isolated by filtration then washed with hexane to provide 47.5 g of ethyl 4-hydroxy-7-(trifluoromethyl)-3-quinolinecarboxylate as an off-white solid.

reactant | 2-{[3-(trifluoromethyl)anilino]methylene}malonate | 0.24 mol, 80 g | FC(C=1C=C(NC=C(C(=O)[O-])C(=O)[O-])C=CC1)(F)F
reactant | Dowtherm A | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | ethyl 4-hydroxy-7-(trifluoromethyl)-3-quinolinecarboxylate | 47.5 g | OC1=C(C=NC2=CC(=CC=C12)C(F)(F)F)C(=O)OCC | C13H10F3NO3
